US06107458
A solution of (S)-2-Tert-butoxycarbonyl-1,2,3,4-tetrahydro-7-hydroxyisoquinoline-3-carboxylic acid (1 g) in a mixture of 10% NaOH aqueous solution (2.73 ml) and dimethylsulfoxide (11 ml) was stirred for half an hour at 80° C. Then, octyl bromide (0.589 ml) was added thereto, and stirred for 4 hours at 60° C. The reaction mixture was added to a mixture of water and ethyl acetate, and adjusted to pH 2.5 with conc. hydrochloric acid. The organic layer was taken, and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give (S)-2-Tert-butoxycarbonyl-1,2,3,4-tetrahydro-7-octyloxyisoquinoline-3-carboxylic acid (1.30 g).

reactant | (S)-2-Tert-butoxycarbonyl-1,2,3,4-tetrahydro-7-hydroxyisoquinoline-3-carboxylic acid | 1 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1C(=O)O)O | C15H19NO5
reactant | octyl bromide | 0.589 ml | C(CCCCCCC)Br | C8H17Br
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | NaOH | 2.73 ml | [OH-].[Na+]
solvent | dimethylsulfoxide | 11 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-Tert-butoxycarbonyl-1,2,3,4-tetrahydro-7-octyloxyisoquinoline-3-carboxylic acid | 1.30 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1C(=O)O)OCCCCCCCC | C23H35NO5
